US07160922B2
Add (1R,2R)-1-amino-6-nitroindan-2-ol mandelate (0.64 kg, 1.85 mol) to a mixture of toluene (9.6 L) and aqueous 1 N NaOH (4.8 L, 4.8 mol, 2.6 equiv). After 1 h, add 4-biphenylcarbonyl chloride (0.44 kg, 2.0 mol, 1.1 equiv) in portions over 20–30 min. After 22 hours, filter the solids under vacuum and rinse sequentially with 0.5 L of toluene, 2 L of water, and 2 L of toluene. Dry the cake to afford 0.74 kg of biphenyl-4-carboxylic acid (R)-(6-nitro-2-hydroxyindan-1-yl)amide. Add 38.2 L of ethyl acetate to 1.914 kg of biphenyl-4-carboxylic acid (R)-(6-nitro-2(R)-hydroxyindan-1-yl)amide prepared in a similar manner. Stir the slurry for 18 h, collect the solid by filtration, dry to afford 1.76 kg of biphenyl-4-carboxylic acid (R)-(6-nitro-2(R)-hydroxyindan-1-yl)amide as a white solid.

reactant | (1R,2R)-1-amino-6-nitroindan-2-ol mandelate | 1.85 mol, 0.64 kg | C(C(O)C1=CC=CC=C1)(=O)O[C@H]1[C@@H](C2=CC(=CC=C2C1)[N+](=O)[O-])N | C17H16N2O5
reactant | NaOH | 4.8 mol, 1 N, 4.8 L, 2.6 equiv | [OH-].[Na+]
reactant | 4-biphenylcarbonyl chloride | 2.0 mol, 0.44 kg, 1.1 equiv | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
solvent | toluene | 9.6 L | C1(=CC=CC=C1)C | C7H8
product | biphenyl-4-carboxylic acid (R)-(6-nitro-2-hydroxyindan-1-yl)amide | 0.74 kg | [N+](=O)([O-])C1=CC=C2CC([C@@H](C2=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)O | C22H18N2O4
